US06093710
6-Ethoxycarbonyl-2-(1-ethoxy-1-iminomethyl)-4,5,6,7-tetrahydrobenzo[b]thiophene hydrochloride (1.51 g), 2.7 N ethanol solution of ammonia (1.41 ml) and EtOH (5 ml) was stirred at reflux for 4 hours. After evaporation, the resulting oil was purified by chromatography on silica gel (CHCl3 -MeOH as eluent), and subsequently washed with Et2O to give 2-amidino-6-ethoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene hydrochloride (1.20 g).

reactant | 6-Ethoxycarbonyl-2-(1-ethoxy-1-iminomethyl)-4,5,6,7-tetrahydrobenzo[b]thiophene hydrochloride | 1.51 g | Cl.C(C)OC(=O)C1CCC2=C(SC(=C2)C(=N)OCC)C1
reactant | ammonia | 1.41 ml | N | H3N
solvent | EtOH | 5 ml | CCO | C2H6O
solvent | ethanol | 2.7 N | C(C)O | C2H6O
product | 2-amidino-6-ethoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene hydrochloride | 1.20 g | Cl.C(N)(=N)C1=CC2=C(S1)CC(CC2)C(=O)OCC | InChI=1S/C12H16N2O2S.ClH/c1-2-16-12(15)8-4-3-7-5-10(11(13)14)17-9(7)6-8;/h5,8H,2-4,6H2,1H3,(H3,13,14);1H
